* Schematics Netlist *



R_RL         0 $N_0001  100  
D_D1         $N_0002 $N_0001 D1N4002 
V_Vac         $N_0002 0 DC 0 AC 12
+SIN 0 12 60 0 0 0
C_C1         0 $N_0001  40000u  
